US07629346B2
6-(4-Chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrazine-2-carboxylic acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide
To a solution of 0.0041 g (0.0001 mol) 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide in 1.0 ml 2,2,2-trifluoroethanol was added 0.200 g (0.0006 mol) cesium carbonate and the mixture was stirred at room temperature for 7 days. The reaction mixture was partitioned between water and ethyl acetate, the phases were separated and the organic phase was purified by chromatography on silica gel with heptane:ethyl acetate=2:1 to yield 0.042 g (98% yield) of the title compound as white crystals melting at 96-97° C.

reactant | 5-bromo-6-(4-chloro-phenyl)-pyrazine-2-carboxylic acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide | 0.0001 mol, 0.0041 g | C1(CC1)[C@@](CNC(=O)C1=NC(=C(N=C1)Br)C1=CC=C(C=C1)Cl)(C)O | C17H17BrClN3O2
reactant | cesium carbonate | 0.0006 mol, 0.200 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 2,2,2-trifluoroethanol | 1.0 ml | FC(CO)(F)F | C2H3F3O
product | 6-(4-Chloro-phenyl)-5-(2,2,2-trifluoro-ethoxy)-pyrazine-2-carboxylic acid ((R)-2-cyclopropyl-2-hydroxy-propyl)-amide | 0.042 g, 98% yield | C1(CC1)[C@@](CNC(=O)C1=NC(=C(N=C1)OCC(F)(F)F)C1=CC=C(C=C1)Cl)(C)O | C19H19ClF3N3O3
